US07273882B2
The solution of 3.50 g of 1,3-bis(azidomethyl)-5-chlorobenzene in THF (20 mL) was added slowly to the LAH (1.33 g, 35.0 mmol) suspension in THF at 0° C. The resulting reaction mixture was stirred at RT for 1 hr. and then at reflux for another hour. Slow addition of 2 mL of 5% NaOH solution resulted a precipitate, which was removed by filtration. The product on solid was rinsed off with THF. The solvent was evaporated in vacuo to yield 2.60 g of 3-(aminomethyl)-5-chlorobenzylamine. 1H NMR (500 MHz, CD3OD) δ 7.25 (s, 2 H), 7.21 (s, 1 H), 3.76 (s, 4 H).

reactant | 1,3-bis(azidomethyl)-5-chlorobenzene | 3.50 g | N(=[N+]=[N-])CC1=CC(=CC(=C1)Cl)CN=[N+]=[N-] | C8H7ClN6
reactant | LAH | 35.0 mmol, 1.33 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 2 mL | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(aminomethyl)-5-chlorobenzylamine | 2.60 g | NCC=1C=C(CN)C=C(C1)Cl | C8H11ClN2
